US09351989B2
(2R,3R,4R,5R)-2-(2-Amino-6-chloro-9H-purin-9-yl)-5-(benzoyloxymethyl)-3-methyltetrahydrofuran-3,4-diyl Dibenzoate
To a pre-cooled (0° C.) solution of (2S,3R,4R,5R)-5-(benzoyloxymethyl)-3-methyltetrahydrofuran-2,3,4-triyl tribenzoate (or 2,3,4,5-tetra-O-benzoyl-2-C-methyl-β-D-ribofuranose) (CarboSynth Ltd, 10.0 g, 17.22 mmol), 2-amino-6-chloropurine (Aldrich, 3.2 g, 18.87 mmol), and 1,8-diazabicycl[5.4.0]undec-7-ene (DBU) (7.7 mL, 51 mmol) in anhydrous acetonitrile (200 mL), was added trimethysilyl triflate (12.5 mL, 68.8 mmol) dropwise. The reaction mixture was then heated at 65° C. for 4 to 6 h, allowed to cool down to room temperature, poured into saturated aqueous sodium bicarbonate (300 mL), and extracted with dichloromethane (3×150 mL). The combined organic phase was dried over sodium sulfate and evaporated under reduced pressure. The residue was precipitated from dichloromethane and methanol, filtrated, the solid was washed 2 times with methanol and dried to give the desired compound (8.5 g, 79%) as a white solid (yields are from 65% (column) up to 90% (precipitation)).

reactant | (2S,3R,4R,5R)-5-(benzoyloxymethyl)-3-methyltetrahydrofuran-2,3,4-triyl tribenzoate | C(C1=CC=CC=C1)(=O)O[C@@H]1O[C@@H]([C@H]([C@@]1(C)OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C34H28O9
reactant | 2-amino-6-chloropurine | 18.87 mmol, 3.2 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | undec-7-ene | 51 mmol, 7.7 mL | CCCCCCC=CCCC | C11H22
reactant | trimethysilyl triflate | 68.8 mmol, 12.5 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | (2R,3R,4R,5R)-2-(2-Amino-6-chloro-9H-purin-9-yl)-5-(benzoyloxymethyl)-3-methyltetrahydrofuran-3,4-diyl Dibenzoate | 8.5 g, 79% | C(C1=CC=CC=C1)(=O)O[C@]1([C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)N)C | C32H26ClN5O7
